US08426437B2
This compound is prepared according to synthesis 25, from 300 mg (0.92 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 112 μL (1.1 mmol) of 4-fluoro-aniline. After purification by chromatography on silica (eluent dichloromethane/methanol 95/5) then trituration in water then diethyl ether, 45 mg (12%) of 8-(4-fluorophenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.92 mmol, 300 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 4-fluoro-aniline | 1.1 mmol, 112 μL | FC1=CC=C(N)C=C1 | C6H6FN
product | 8-(4-fluorophenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 45 mg, 12% | FC1=CC=C(C=C1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C17H12FN3O3S.C3H6O2/c18-10-1-3-11(4-2-10)21-25(23,24)12-5-6-15-14(9-12)13-7-8-19-16(13)17(22)20-15;1-2-3(4)5/h1-9,19,21H,(H,20,22);2H2,1H3,(H,4,5)/p-1
